US08445505B2
To a solution of 4-(4-(5-chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-2,5-dimethylphenyl)cyclohexanone (15 mg, 0.033 mmol) in MeOH (0.5 mL) was added NaOAc (6 mg, 0.073 mmol) and NH2OH HCl (5 mg, 0.073 mmol). The resulting mixture was stirred at 70° C. for 2 h. and then cooled down to room temperature. The mixture was purified directly by preparative RP-HPLC to provide 4-(4-(5-chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-2,5-dimethylphenyl)-cyclohexanone oxime; ESMS m/z 440.2 (M+H+).

reactant | 4-(4-(5-chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-2,5-dimethylphenyl)cyclohexanone | 0.033 mmol, 15 mg | ClC=1C(=NC(=NC1)NC1=CC(=C(C=C1C)C1CCC(CC1)=O)C)NC1=NNC(=C1)C | C22H25ClN6O
reactant | NaOAc | 0.073 mmol, 6 mg | CC(=O)[O-].[Na+]
reactant | NH2OH HCl | 0.073 mmol, 5 mg | NO.Cl
solvent | MeOH | 0.5 mL | CO | CH4O
product | 4-(4-(5-chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-2,5-dimethylphenyl)-cyclohexanone oxime | ClC=1C(=NC(=NC1)NC1=CC(=C(C=C1C)C1CCC(CC1)=NO)C)NC1=NNC(=C1)C | C22H26ClN7O
